US07414067B2
N,N-Bis-Cyclohexyl-1-(4-chlorobenzoyl)-5-methoxy-2-methylindole-3-acetamide
Into a flask was added 0.180 g (0.5 mmol) of 1-(4-chlorobenzoyl)-5-methoxy-2-methylindole-3-acetic acid, 1.8 mL of anhydrous dichloromethane, 0.194 g (0.6 mmol) of TBTU (o-benzotriazol-1-yl-N,N,N′,N′,-tetramethyluronium tetrafluoroborate), 0.066 mL (0.6 mmol) of dicyclohexylamine and finally 0.22 mL (1.26 mmol) of diisopropylethyl amine. The reaction was stirred at room temperature for 20 hr then diluted with more dichloromethane (10 mL). The solution was washed with dilute aqueous citric acid (2×10 mL), aqueous sodium bicarbonate (10 mL) and water (10 mL) before drying (MgSO4), filtering and evaporating the filtrate. The residue was slurried with a hexanes/ethyl acetate mix to give the title compound. 1H NMR (CDCl3) δ 7.56 (2H, d), 7.40 (2H, d), 7.01 (1H, bs), 6.61 (1H, d), 6.56 (1H, dd), 3.75 (3H, s), 3.63 (2H, s), 3.41 (1H, m), 2.73 (1H, b), 2.38 (3H, s), 0.9-1.8 (20H, m) Mass Spectrum m/e 521/523 (M+1).

reactant | 1-(4-chlorobenzoyl)-5-methoxy-2-methylindole-3-acetic acid | 0.5 mmol, 0.180 g | ClC1=CC=C(C(=O)N2C(=C(C3=CC(=CC=C23)OC)CC(=O)O)C)C=C1 | C19H16ClNO4
reactant | TBTU | 0.6 mmol, 0.194 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | dicyclohexylamine | 0.6 mmol, 0.066 mL | C1(CCCCC1)NC1CCCCC1 | C12H23N
reactant | diisopropylethyl amine | 1.26 mmol, 0.22 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1.8 mL | ClCCl | CH2Cl2
product | N,N-Bis-Cyclohexyl-1-(4-chlorobenzoyl)-5-methoxy-2-methylindole-3-acetamide | C1(CCCCC1)N(C(CC1=C(N(C2=CC=C(C=C12)OC)C(C1=CC=C(C=C1)Cl)=O)C)=O)C1CCCCC1 | C31H37ClN2O3
